US05491145
Production of 7-methyl-6-[(3-(1-methyl-4-piperazinyl) sulfonylpropyl)oxy]imidazo[1,2-b]pyridazine
In 20 ml of tetrahydrofuran-dimethylformamide (3:1) was suspended 110 mg of60% sodium hydride in oil followed by addition of 611 mg of 3-(1-methyl-4-piperazinylsulfonyl)-1-propanol and the mixture was stirred under nitrogen at room temperature for 30 minutes and at 50° C. for30 minutes. Then, 420 mg of 6-chloro-7-methylimidazo[1,2-b]pyridazine was added and the mixture was further stirred at 50° C. for 1 hour and at 70° C. for 1 hour. Following addition of 100 ml of iced water, the reaction mixture was extracted with ethylacetate (100 ml ). The extract was washed with 50 ml of saturated saline and dried over anhydrousmagnesium sulfate. The solvent was then distilled off under reduced pressure and the residue was subjected to silica gel column chromatography, elution being carried out with dichloromethanemethanol (50:3). The fraction containing the desired product were pooled and concentrated. The residue was recrystallized dichloromethane-isopropyl ether to obtain 447 mg of the title compound.

reactant | sodium hydride | 110 mg | [H-].[Na+]
reactant | 3-(1-methyl-4-piperazinylsulfonyl)-1-propanol | 611 mg | CN1CCN(CC1)S(=O)(=O)CCCO | C8H18N2O3S
reactant | 6-chloro-7-methylimidazo[1,2-b]pyridazine | 420 mg | ClC=1C(=CC=2N(N1)C=CN2)C | C7H6ClN3
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran dimethylformamide | 20 ml | O1CCCC1.CN(C=O)C
product | 7-methyl-6-[(3-(1-methyl-4-piperazinyl) sulfonylpropyl)oxy]imidazo[1,2-b]pyridazine | 447 mg | CC1=CC=2N(N=C1OCCCS(=O)(=O)N1CCN(CC1)C)C=CN2 | C15H23N5O3S
